US06162927
N-butyl-N-(4-hydroxybutyl)-chloroacetamide
Pyridine (2 ml) was added to an ice cold solution of 0.58 gm (4 mmol) of N-butyl-N-(4-hydroxybutyl)-amine in 10 ml of EtOAc. To this solution 0.769 gm (4.5 mmol) chloroacetic anhydride was added in small portions. The reaction mixture was allowed to stir for 5 hours at 0° C., and then was allowed to warm to room temperature. Bicarbonate was added, and the resultant mixture was extracted with EtOAc. The organic layer was washed with water and brine. The crude material was purified by column chromatography.

reactant | Pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | N-butyl-N-(4-hydroxybutyl)-amine | 4 mmol, 0.58 gm | C(CCC)NCCCCO | C8H19NO
reactant | chloroacetic anhydride | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | Bicarbonate | C([O-])(O)=O
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | N-butyl-N-(4-hydroxybutyl)-chloroacetamide | C(CCC)N(C(CCl)=O)CCCCO | C10H20ClNO2
